US04148798
4-[(1,1-Dioxo-1,2-benzisothiazol-3-yl)amino]butanoic acid, ethyl ester
4.07 ml (29.2 mM) of triethylamine is added to 5.0 g. (29.2 mM) of ethyl 4-aminobutyrate hydrochloride, suspended in 75 ml of dioxane. After stirring for 5 minutes, 5.88 g. (29.2 mM) of 3-chloro-1,2-benzisothiazole 1,1-dioxide is added and the mixture is refluxed for one hour. The solvent is evaporated in vacuo and the residue is taken up in chloroform, washed with water, and evaporated to dryness. The residual 4-[(1,1-dioxo-1,2-benzisothiazol-3-yl)amino]-butanoic acid, ethyl ester is recrystallized from 40 ml. of methanol/water, yield 3.72 g., m.p. 125°-127°.

reactant | triethylamine | 29.2 mM, 4.07 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 4-aminobutyrate hydrochloride | 29.2 mM | Cl.NCCCC(=O)OCC
reactant | 3-chloro-1,2-benzisothiazole 1,1-dioxide | 29.2 mM | ClC1=NS(C2=C1C=CC=C2)(=O)=O | C7H4ClNO2S
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | 4-[(1,1-Dioxo-1,2-benzisothiazol-3-yl)amino]butanoic acid, ethyl ester | O=S1(N=C(C2=C1C=CC=C2)NCCCC(=O)OCC)=O | C13H16N2O4S
